US04808589
Ethyl 3-(5-dimethylaminomethyl-2-furanylmethylthio)propionimidate (27.72 g), ammonium chloride (5.48 g) and ethanol (170 ml) were stirred at room temperature for one hour and then allowed to stand overnight. The ethanol was evaporated at reduced pressure and the residue purified by chromatography on silica gel at medium pressure using chloroform-methanol as eluant. The fractions containing the major product were combined, evaporated to dryness at reduced pressure and treated with ethanol containing anhydrous hydrogen chloride. The solvent was evaporated at reduced pressure to give 3-(5-dimethylaminomethyl-2-furanylmethylthio)propionamidine dihydrochloride (15.65 g).

reactant | Ethyl 3-(5-dimethylaminomethyl-2-furanylmethylthio)propionimidate | 27.72 g | CN(C)CC1=CC=C(O1)CSCCC(OCC)=N | C13H22N2O2S
reactant | ammonium chloride | 5.48 g | [Cl-].[NH4+]
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 3-(5-dimethylaminomethyl-2-furanylmethylthio)propionamidine dihydrochloride | 15.65 g | Cl.Cl.CN(C)CC1=CC=C(O1)CSCCC(=N)N | InChI=1S/C11H19N3OS.2ClH/c1-14(2)7-9-3-4-10(15-9)8-16-6-5-11(12)13;;/h3-4H,5-8H2,1-2H3,(H3,12,13);2*1H
